US09108939B2
A slurry of platinum (IV) oxide (0.037 mmol, 8.37 mg) in ethanol was added to a solution of tert-butyl 4-(3-chloro-4-nitrobenzylidene)piperidine-1-carboxylate (0.737 mmol, 260 mg) in ethanol and the resulting suspension was hydrogenated at 3 bar for 45 minutes. The reaction mixture was filtered through celite, washing with ethanol. The filtrate was concentrated under vacuum to afford the intermediate tert-butyl 4-(4-amino-3-chlorobenzyl)piperidine-1-carboxylate (200 mg).

reactant | tert-butyl 4-(3-chloro-4-nitrobenzylidene)piperidine-1-carboxylate | 0.737 mmol, 260 mg | ClC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C17H21ClN2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum (IV) oxide | 0.037 mmol, 8.37 mg | [Pt](=O)=O
product | tert-butyl 4-(4-amino-3-chlorobenzyl)piperidine-1-carboxylate | 200 mg | NC1=C(C=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)Cl | C17H25ClN2O2
